US08008306B2
c) Preparation of [4-hydroxy-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone
A solution of ethyl 2-benzoyl-3-[2-(trifluoromethyl)phenylamino]acrylate (30.5 g, 84.0 mmol) in Dowtherm® (280 mL) was stirred at 260° C. for 11 hours. The reaction solution was returned to room temperature, then added with hexane and recrystallized. The title compound (17.0 g, yield 64%) was obtained as a brown oil.

reactant | ethyl 2-benzoyl-3-[2-(trifluoromethyl)phenylamino]acrylate | 84.0 mmol, 30.5 g | C(C1=CC=CC=C1)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)C(F)(F)F | C19H16F3NO3
reactant | hexane | CCCCCC | C6H14
solvent | Dowtherm | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | [4-hydroxy-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | 17.0 g, yield 64% | OC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C17H10F3NO2
